US07384931B2
5-Neopentyl-7-(2-oxo-2-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidin-1-yl)ethyl)-7,8-dihydro-1H-pyrazolo[3,4-g]quinolin-6(5H)-one.
O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (116 mg, 0.3 mmol) was added to a solution of 2-(1-neopentyl-2-oxo-2,3,4,7-tetrahydro-1H-pyrazolo[3,4-h]quinolin-3-yl)acetic acid (95 mg, 0.3 mmol) and N,N-diisopropylethylamine (158 μL, 0.9 mmol) in dichloromethane (5.0 mL). Mixture was stirred at room temperature for 45 minutes. 4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl) piperidine (70 mg, 0.3 mmol) was then added to the mixture. After 3 h stirring at room temperature, the crude reaction mixture was purified by prep HPLC starting from 30% methanol in water to 90% methanol in water over a period of 8 min and at a flow rate of 40 ml/min. Removal of solvent furnished the desired. MS (ESI) 529 (M+H); Rf=1.57.

reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.3 mmol, 116 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 2-(1-neopentyl-2-oxo-2,3,4,7-tetrahydro-1H-pyrazolo[3,4-h]quinolin-3-yl)acetic acid | 0.3 mmol, 95 mg | C(C(C)(C)C)N1C(C(CC2=CC=C3C(=C12)C=NN3)CC(=O)O)=O | C17H21N3O3
reactant | N,N-diisopropylethylamine | 0.9 mmol, 158 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl) piperidine | 0.3 mmol, 70 mg | O=C1NC2=CC=CC=C2CN1C1CCNCC1 | C13H17N3O
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | 5-Neopentyl-7-(2-oxo-2-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidin-1-yl)ethyl)-7,8-dihydro-1H-pyrazolo[3,4-g]quinolin-6(5H)-one | C(C(C)(C)C)N1C(C(CC=2C=C3C(=CC12)C=NN3)CC(N3CCC(CC3)N3C(NC1=CC=CC=C1C3)=O)=O)=O | C30H36N6O3
